US07723367B2
2-pyrrolidin-1-yl-nicotinonitrile
To an oven-dried, N2-purged, 50-mL flask containing a magnetic stir bar were added 2-fluoronicotinonitrile (1.22 g, 10.0 mmol), anhydrous tetrahydrofuran (5 mL), and triethylamine (3.04 g, 4.19 mL, 30.0 mmol). The flask was sealed with a septum and cooled to 0° C. in an ice bath. Neat pyrrolidine (1.04 g, 1.24 mmol, 15.0 mmol) was added via syringe. The mixture was stirred at 0° C. for 30 minutes and then allowed to warm to room temperature overnight. Water (10 mL) was added and the mixture was transferred to a separatory funnel. The mixture was extracted with dichloromethane (3×10 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated by rotary evaporator to a brown oil. The product was recrystallized from ethyl acetate/hexanes to give 1.29 g (75%) of the title compound as a tan powder. MS (ESI+) m/z 174.0 (M+H)+; 1H NMR (DMSO-d6) δ 1.91-1.95 (m, 4H), 3.63-3.68 (m, 4H), 6.68 (dd, J=7.6, 4.6 Hz, 1H), 7.91 (dd, J=7.6, 1.9 Hz, 1H), 8.31 (dd, J=4.7, 2.0 Hz, 1H).

reactant | 2-fluoronicotinonitrile | 10.0 mmol, 1.22 g | FC1=C(C#N)C=CC=N1 | C6H3FN2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | triethylamine | 30.0 mmol, 4.19 mL, 3.04 g | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 1.24 mmol, 1.04 g | N1CCCC1 | C4H9N
solvent | Water | 10 mL | O | H2O
product | 2-pyrrolidin-1-yl-nicotinonitrile | 1.29 g, 75% | N1(CCCC1)C1=C(C#N)C=CC=N1 | C10H11N3
